US06495564B1
A solution of 4-(3-Chloro-phenyl)-6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one (2.3 g, 4.35 mmol) in dichloromethane (60 mL) at 0° C. was treated with thionyl chloride (15 mL). The reaction mixture was warmed to room temperature, stirred for 1 hour, heated to 45° C., and stirred for an additional hour. The mixture was cooled to ambient temperature and concentrated in vacuo to give 6-[Chloro-(4-chloro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one; hydrochloride (2.15 g, 85%) as a bright yellow powder.

reactant | 4-(3-Chloro-phenyl)-6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one | 4.35 mmol, 2.3 g | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C1=CC=C(C=C1)Cl)CC1CC1)=O | C30H25Cl2N3O2
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6-[Chloro-(4-chloro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | ClC(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C1=CC=C(C=C1)Cl | C30H24Cl3N3O
